US04663339
A mixture of 3-chloro-2-(4-phenoxybenzylamino)aniline (0.300 g) and ethyl ortho-formate (0.178 g) was heated at 120° to 130° C. for 5 hours while stirring and then cooled to room temperature. Toluene (100 ml) and a 5% sodium hydroxide solution (50 ml) were added thereto, followed by stirring for 10 minutes. The toluene layer was separated and washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove toluene. The residue was purified by silica gel column chromatography to give 7-chloro-1-(4-phenoxybenzyl)benzimidazole (0.239 g) as a colorless liquid. nD28.5 1.6362.

reactant | 3-chloro-2-(4-phenoxybenzylamino)aniline | 0.300 g | ClC=1C(=C(N)C=CC1)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C19H17ClN2O
reactant | ethyl ortho-formate | 0.178 g | C(OCC)([O-])[O-]
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-1-(4-phenoxybenzyl)benzimidazole | 0.239 g | ClC1=CC=CC2=C1N(C=N2)CC2=CC=C(C=C2)OC2=CC=CC=C2 | C20H15ClN2O
